US04268510
o-Nitromandelic acid (5 g.) and thionyl chloride (50 ml.) were mixed, heated under reflux on a steam bath for 1 hour and cooled, then the excess of thionyl chloride was removed on a rotary evaporator at room temperature. The crude o-nitromandeloyl chloride thus obtained was carefully mixed with methanol (70 ml.), and after the initial vigorous reaction had subsided, the mixture was heated under reflux on a steam bath for 1 hour, cooled, and the solvent evaporated under reduced pressure. The oil thus obtained was chromatographed on silica, and elution with diethyl ether/petroleum ether (b.p. 60°-80° C.), 6:4 by volume yielded methyl o-nitromandelate. The methyl o-nitromandelate thus obtained was reduced by the general process described under (a) above to give the required starting material;

reactant | o-Nitromandelic acid | 5 g | [N+](=O)([O-])C1=C(C(C(=O)O)O)C=CC=C1 | C8H7NO5
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 70 ml | CO | CH4O
product | methyl o-nitromandelate | [N+](=O)([O-])C1=C(C(C(=O)OC)O)C=CC=C1 | C9H9NO5
